** Name: SymmetricalOpAmp185

.MACRO SymmetricalOpAmp185 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=4e-6 W=20e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=66e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=1e-6 W=19e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorPmos5 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=137e-6
mNormalTransistorNmos7 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=93e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=137e-6
mNormalTransistorNmos9 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=207e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=364e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=174e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=66e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=215e-6
mNormalTransistorPmos14 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=448e-6
mNormalTransistorPmos15 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=448e-6
mNormalTransistorPmos16 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=215e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=27e-6
mNormalTransistorPmos18 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=27e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=56e-6
mNormalTransistorPmos20 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=56e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp185

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 3.23701 mW
** Area: 5878 (mu_m)^2
** Transit frequency: 37.8331 MHz
** Transit frequency with error factor: 37.8331 MHz
** Slew rate: 35.9631 V/mu_s
** Phase margin: 67.6091°
** CMRR: 145 dB
** negPSRR: 121 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.740001 V
** VcmMax: 4.81001 V
** VcmMin: 1.33001 V


** Expected Currents: 
** NormalTransistorNmos: 99.5591 muA
** NormalTransistorPmos: -86.9789 muA
** NormalTransistorPmos: -86.9799 muA
** NormalTransistorPmos: -86.9789 muA
** NormalTransistorPmos: -86.9799 muA
** NormalTransistorNmos: 173.956 muA
** NormalTransistorNmos: 173.955 muA
** NormalTransistorNmos: 86.9781 muA
** NormalTransistorNmos: 86.9781 muA
** NormalTransistorNmos: 181.949 muA
** NormalTransistorNmos: 181.948 muA
** NormalTransistorPmos: -181.948 muA
** NormalTransistorPmos: -181.948 muA
** DiodeTransistorNmos: 181.948 muA
** DiodeTransistorNmos: 181.947 muA
** NormalTransistorPmos: -181.947 muA
** NormalTransistorPmos: -181.948 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -99.5599 muA


** Expected Voltages: 
** ibias: 1.11301  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.585001  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 1.32501  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.490001  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.768001  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END